US04599333
A micture of 4.3 g of 1-(2-methylphenoxy)-2,3-epoxypropane, 7.03 g of N,N-dibenzyl-2-methyl-1,2-propanediamine and 50 ml of ethanol was refluxed for 20 hours, and the solvent was evaporated under reduced pressure. To a benzene solution of the residue was added 1N hydrochloric acid, to deposit an oily material. After removal of the benzene layer, the residue was extracted with chloroform. The organic layer was washed with 5% sodium carbonate and dried over anhydrous sodium sulfate. The solvent was evaporated to give a colorless oily product. The product was chromatographed on a column of silica gel using chloroform as an eluent. 7.3 g of 1-(2-methylphenoxy)-3-(1,1-dimethyl-2-dibenzylaminoethylamino)-2-propanol was obtained from the eluate.

reactant | 1-(2-methylphenoxy)-2,3-epoxypropane | 4.3 g | CC1=C(OCC2CO2)C=CC=C1 | C10H12O2
reactant | N,N-dibenzyl-2-methyl-1,2-propanediamine | 7.03 g | C(C1=CC=CC=C1)N(CC(C)(N)C)CC1=CC=CC=C1 | C18H24N2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-(2-methylphenoxy)-3-(1,1-dimethyl-2-dibenzylaminoethylamino)-2-propanol | 7.3 g | CC1=C(OCC(CNC(CN(CC2=CC=CC=C2)CC2=CC=CC=C2)(C)C)O)C=CC=C1 | C28H36N2O2
